US07399759B2
[5-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl acetate
A mixture of methyl thiosalicylate (0.58 g, 3.43 mmol), a mixture of 5-acetoxy-2-cyanopyridine and 3-acetoxy-2-cyanopyridine (0.60 g, 3.43 mmol), triethylamine (0.72 ml, 5.15 mmol) and toluene (100 ml) was refluxed for 48 hrs as described in Example 1. The solvent was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the titled compound (0.30 g, 29%) as crystals.

reactant | methyl thiosalicylate | 3.43 mmol, 0.58 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 5-acetoxy-2-cyanopyridine | C(C)(=O)OC=1C=CC(=NC1)C#N | C8H6N2O2
reactant | 3-acetoxy-2-cyanopyridine | 3.43 mmol, 0.60 g | C(C)(=O)OC=1C(=NC=CC1)C#N | C8H6N2O2
reactant | triethylamine | 5.15 mmol, 0.72 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | [5-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl acetate | 0.30 g, 29% | C(C)(=O)OCC1=NC=C(C=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H12N2O3S
